US06187393B1
1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane.
1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Hex-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Oct-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Oct-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Hex-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane. 1-[4-(5-[(E)-Oct-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane.

reactant | 1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C26H34N2O
reactant | 1-[4-(5-[(E)-Hex-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C27H36N2O
reactant | 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C28H38N2O
reactant | 1-[4-(5-[(E)-Oct-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C29H40N2O
reactant | 1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\C)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C27H36N2O
reactant | 1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\CC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C28H38N2O
reactant | 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-pentylbicyclo[2.2.2]octane | C(\C=C\CCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCC | C30H42N2O
reactant | 1-[4-(5-[(E)-Oct-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C33H48N2O
reactant | 1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\C)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C29H40N2O
reactant | 1-[4-(5-[(E)-Pent-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C30H42N2O
reactant | 1-[4-(5-[(E)-Hex-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C31H44N2O
reactant | 1-[4-(5-[(E)-Hept-2-enyloxy]pyrimidin-2-yl)phenyl]-4-heptylbicyclo[2.2.2]octane | C(\C=C\CCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCCCCCC | C32H46N2O
product | 1-[4-(5-[(E)-But-2-enyloxy]pyrimidin-2-yl)phenyl]-4-propylbicyclo[2.2.2]octane | C(\C=C\C)OC=1C=NC(=NC1)C1=CC=C(C=C1)C12CCC(CC1)(CC2)CCC | C25H32N2O
